US03970651
The acylation of 7-amino-3-(1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (7-TACA) to BL-S640 has been carried out in methylene chloride with D-(-)-p-hydroxyphenylglycyl chloride hydrochloride. The yield to BL-S640 methanol solvate was about 45% on a biopotency basis. There was about 15% activity in the mother liquor and about 25% insoluble solids which is unreacted 7-TACA and 7-TACA decomposition product with degraded β-lactam.

reactant | 7-amino-3-(1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C10H11N5O3S2
reactant | BL-S640 | C1=CC(=CC=C1[C@H](C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC4=CNN=N4)C(=O)O)N)O | C18H18N6O5S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | BL-S640 methanol | C1=CC(=CC=C1[C@H](C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC4=CNN=N4)C(=O)O)N)O.CO | InChI=1S/C18H18N6O5S2.CH4O/c19-12(8-1-3-10(25)4-2-8)15(26)21-13-16(27)24-14(18(28)29)9(7-31-17(13)24)6-30-11-5-20-23-22-11;1-2/h1-5,12-13,17,25H,6-7,19H2,(H,21,26)(H,28,29)(H,20,22,23);2H,1H3/t12-,13-,17-;/m1./s1
